US08871756B2
3-{[4-(4-Chloroquinolin-2-yl)-1,1-dioxido-2,3,4,5-tetrahydro-1,4-benzothiazepin-8-yl]oxy}propan-1-ol
A mixture of 4-(4-chloroquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepin-8-ol 1,1-dioxide (374.0 mg, 1.0 mmol), 3-bromo-propan-1-ol (0.37 mL, 3.0 mmol) and potassium carbonate (415.0 mg, 3.0 mmol) in N,N-dimethylformamide (1.5 mL) was heated with stirring at 70° C. for 2 hours. After being cooled to room temperature, the resulting mixture was extracted with ethyl acetate (150 mL×2). The combined organic layers were washed with water (50 mL×2) and a saturated aqueous ammonium chloride solution (50 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 421.6 mg of the crude product as a yellow oil which was used for next step without further purification. MS obsd. (ESI+) [(M+H)+] 433.

reactant | 4-(4-chloroquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepin-8-ol 1,1-dioxide | 1.0 mmol, 374.0 mg | ClC1=CC(=NC2=CC=CC=C12)N1CCS(C2=C(C1)C=CC(=C2)O)(=O)=O | C18H15ClN2O3S
reactant | 3-bromo-propan-1-ol | 3.0 mmol, 0.37 mL | BrCCCO | C3H7BrO
reactant | potassium carbonate | 3.0 mmol, 415.0 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 3-{[4-(4-Chloroquinolin-2-yl)-1,1-dioxido-2,3,4,5-tetrahydro-1,4-benzothiazepin-8-yl]oxy}propan-1-ol | 421.6 mg | ClC1=CC(=NC2=CC=CC=C12)N1CCS(C2=C(C1)C=CC(=C2)OCCCO)(=O)=O | C21H21ClN2O4S
